datasets/RMG-dataset.csv
rxn,Ea
[C:0](=[C:1]([C:2]([C:3](=[C:4]([H:12])[H:13])[H:11])=[C:5]([C:6]([H:14])([H:15])[H:16])[C:7]([H:17])([H:18])[H:19])[H:10])([H:8])[H:9].[C:20](=[C:21]([C:22]([C:23](=[C:24]([H:30])[H:31])[H:29])[H:28])[H:27])([H:25])[H:26]>>[C:0](=[C:1]([C:2]([C:3](=[C:4]([H:12])[H:13])[H:11])([C:5]([C:6]([H:14])([H:15])[H:16])[C:7]([H:17])([H:18])[H:19])[C:22]([C:21](=[C:20]([H:25])[H:26])[H:27])([C:23](=[C:24]([H:30])[H:31])[H:29])[H:28])[H:10])([H:8])[H:9],76.6509
[C:0]([C:1](=[N:2])[H:6])([H:3])([H:4])[H:5].[O:7]>>[C:0]([C:1]#[N:2])([H:3])([H:4])[H:5].[H:6][O:7],-3.740496
[C:0]([C:1]([C:2]([H:8])([H:9])[H:10])([O:3][H:11])[H:7])([H:4])([H:5])[H:6].[C:12]([H:13])([H:14])[H:15]>>[C:0]([C:1]([C:2]([H:8])([H:9])[H:10])[H:7])([H:4])([H:5])[H:6].[O:3]([H:11])[C:12]([H:13])([H:14])[H:15],168.367
[C:0]([C:1]([O:2][O:3][H:12])([C:4]([O:5])([O:6][O:7][H:14])[H:13])[H:11])([H:8])([H:9])[H:10]>>[C:0]([C:1]([O:2][O:3][H:12])([C:4](=[O:5])[H:13])[H:11])([H:8])([H:9])[H:10].[O:6][O:7][H:14],63.1784
[O:0][H:1].[O:2][C:3]([O:4][H:7])([H:5])[H:6]>>[O:0]([H:1])[O:2][C:3]([O:4][H:7])([H:5])[H:6],0.0
[C:0](=[C:1][S:2][H:5])([H:3])[H:4].[C:6]([C:7](=[S:8])[H:12])([H:9])([H:10])[H:11]>>[C:0](=[C:1]([S:2][H:5])[H:9])([H:3])[H:4].[C:6]([C:7](=[S:8])[H:12])([H:10])[H:11],2.5104
[C:0](=[C:1][C:2]([H:5])([H:6])[H:7])([H:3])[H:4].[C:8]([C:9]([C:10]([O:11][H:19])([H:17])[H:18])([H:15])[H:16])([H:12])([H:13])[H:14]>>[C:0](=[C:1]([C:2]([H:5])([H:6])[H:7])[H:12])([H:3])[H:4].[C:8]([C:9]([C:10]([O:11][H:19])([H:17])[H:18])([H:15])[H:16])([H:13])[H:14],14.644
[C:0](#[C:1][C:2]([H:4])([H:5])[H:6])[H:3].[C:7](#[C:8][C:9]([C:10]([H:13])([H:14])[H:15])[H:12])[H:11]>>[C:0](=[C:1]([C:2]([H:4])([H:5])[H:6])[C:9]([C:8]#[C:7][H:11])([C:10]([H:13])([H:14])[H:15])[H:12])[H:3],50.4172
[C:0](#[C:1][C:2]([C:3]([H:10])([H:11])[H:12])=[C:4]([C:5]([C:6]([C:7](=[C:8]([H:18])[H:19])[H:17])[H:16])([H:14])[H:15])[H:13])[H:9]>>[C:0](#[C:1][C:2]([C:3]([H:10])([H:11])[H:12])[C:4]1([H:13])[C:5]([H:14])([H:15])[C:6]1([C:7](=[C:8]([H:18])[H:19])[H:17])[H:16])[H:9],58.9944
[C:0]([C:1]([C:2]([H:8])([H:9])[H:10])([S:3][H:11])[H:7])([H:4])([H:5])[H:6].[C:12]([C:13]=[S:14])([H:15])([H:16])[H:17]>>[C:0]([C:1]([C:2]([H:8])([H:9])[H:10])[S:3][H:11])([H:4])([H:5])[H:6].[H:7][C:13]([C:12]([H:15])([H:16])[H:17])=[S:14],34.7272
[C:0](=[C:1]([C:2](=[C:3]([C:4]([C:5]([C:6]([C:7]([C:8]([C:9]([H:24])([H:25])[H:26])[H:23])([H:21])[H:22])([H:19])[H:20])([H:17])[H:18])([H:15])[H:16])[H:14])[H:13])[H:12])([H:10])[H:11]>>[C:0](=[C:1]([C:2]([C:3]1([H:14])[C:4]([H:15])([H:16])[C:5]([H:17])([H:18])[C:6]([H:19])([H:20])[C:7]([H:21])([H:22])[C:8]1([C:9]([H:24])([H:25])[H:26])[H:23])[H:13])[H:12])([H:10])[H:11],24.1835
[C:0](=[C:1]([C:2]([H:6])([H:7])[H:8])[H:5])([H:3])[H:4].[C:9](=[C:10][C:11]([H:14])([H:15])[H:16])([H:12])[H:13]>>[C:0](=[C:1]([C:2]([H:7])[H:8])[H:5])([H:3])[H:4].[H:6][C:10](=[C:9]([H:12])[H:13])[C:11]([H:14])([H:15])[H:16],-0.8368
[C:0](=[C:1]([C:2]([C:3](=[C:4]([H:11])[H:12])[H:10])([H:8])[H:9])[H:7])([H:5])[H:6].[C:13]([S:14][H:17])([H:15])[H:16]>>[C:0](=[C:1]([C:2]([C:3](=[C:4]([H:11])[H:12])[H:10])[H:9])[H:7])([H:5])[H:6].[H:8][C:13]([S:14][H:17])([H:15])[H:16],5.8576
[O:0]([O:1][C:2]([C:3]([C:4]([C:5]([O:6][O:7][H:16])([H:14])[H:15])([H:12])[H:13])[H:11])([H:9])[H:10])[H:8]>>[O:0][H:8].[O:1]1[C:2]([H:9])([H:10])[C:3]1([C:4]([C:5]([O:6][O:7][H:16])([H:14])[H:15])([H:12])[H:13])[H:11],45.6056
[N:0](=[N:1][H:3])[H:2].[N:4]([H:5])[H:6]>>[H:2][N:4]([H:5])[H:6].[N:0]=[N:1][H:3],-4.8116
[C:0]([C:1]=[N:2][H:6])([H:3])([H:4])[H:5]>>[C:0]([C:1]#[N:2])([H:3])([H:4])[H:5].[H:6],100.416
[C:0](#[C:1][C:2]([C:3]#[C:4][H:8])([H:6])[H:7])[H:5].[C:9](#[C:10][C:11]([C:12]([H:16])([H:17])[H:18])[C:13]#[C:14][H:19])[H:15]>>[C:0](#[C:1][C:2]([C:3]#[C:4][H:8])[H:7])[H:5].[H:6][C:11]([C:10]#[C:9][H:15])([C:12]([H:16])([H:17])[H:18])[C:13]#[C:14][H:19],32.6352
[C:0](=[C:1]([C:2]([C:3]([H:11])([H:12])[H:13])=[C:4]([C:5]([C:6]([C:7]([H:18])([H:19])[H:20])[H:17])([H:15])[H:16])[H:14])[H:10])([H:8])[H:9]>>[C:0](=[C:1]([C:2]([C:3]([H:11])([H:12])[H:13])[C:4]1([H:14])[C:5]([H:15])([H:16])[C:6]1([C:7]([H:18])([H:19])[H:20])[H:17])[H:10])([H:8])[H:9],25.3132
[C:0]([C:1]([C:2]([C:3]([C:4]1([H:19])[C:5]([H:20])([H:21])[C:6]([H:22])([H:23])[C:7]([H:24])([H:25])[C:8]([H:26])([H:27])[C:9]1([H:28])[H:29])([H:17])[H:18])([H:15])[H:16])([H:13])[H:14])([H:10])([H:11])[H:12].[O:30]>>[C:0]([C:1]([C:2]([C:3]([C:4]1([H:19])[C:5]([H:21])[C:6]([H:22])([H:23])[C:7]([H:24])([H:25])[C:8]([H:26])([H:27])[C:9]1([H:28])[H:29])([H:17])[H:18])([H:15])[H:16])([H:13])[H:14])([H:10])([H:11])[H:12].[H:20][O:30],8.811504
[C:0](=[C:1]([C:2]([H:6])([H:7])[H:8])[H:5])([H:3])[H:4].[O:9]>>[C:0]1([H:3])([H:4])[C:1]([C:2]([H:6])([H:7])[H:8])([H:5])[O:9]1,0.0
